US05151420
6-[4-(4-trifluoromethylphenyl)methyleneaminophenyl]-4,5-dihydropyridazin-3(2H)one
A solution containing 0.87 g of 4-trifluoromethylbenzaldehyde, 6-(4-aminophenyl-4,5-dihydropyridazin-3(2H)one, 1 ml of acetic acid and 10 ml of N,N-dimethylacetamide in 40 ml of ethanol was refluxed for 5 h. The product was filtered and washed with ethanol. Yield 0.7 g (41%), m.p. 245°-247° C.

reactant | 4-trifluoromethylbenzaldehyde | 0.87 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 4-aminophenyl-4,5-dihydropyridazin-3(2H)one | NC1=CC=C(C=C1)N1N=CCCC1=O | C10H11N3O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 6-[4-(4-trifluoromethylphenyl)methyleneaminophenyl]-4,5-dihydropyridazin-3(2H)one | FC(C1=CC=C(C=C1)C=NC1=CC=C(C=C1)C=1CCC(NN1)=O)(F)F | C18H14F3N3O
